US08754100B2
Synthesis of benzyl N′-[3-methoxy-4-(4-methylimidazol-1-yl)benzoyl]hydrazinecarboxylate
IPEA (1.05 mL) and 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (1.16 g) were sequentially added to a solution of 3-methoxy-4-(4-methylimidazol-1-yl)benzoic acid (CAS#937026-26-1, 933 mg), benzyl carbazate (737 mg) and HOBT (817 mg) in DMF (15 mL), and the mixture was stirred at room temperature overnight. Ethyl acetate, ice water and a saturated sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with water and brine. The combined aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. Ethyl acetate and NH silica gel were added to the resulting residue and then the mixture was concentrated under reduced pressure.

reactant | IPEA | 1.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride | 1.16 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-methoxy-4-(4-methylimidazol-1-yl)benzoic acid | 933 mg | COC=1C=C(C(=O)O)C=CC1N1C=NC(=C1)C | C12H12N2O3
reactant | benzyl carbazate | 737 mg | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | HOBT | 817 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl N′-[3-methoxy-4-(4-methylimidazol-1-yl)benzoyl]hydrazinecarboxylate | COC=1C=C(C(=O)NNC(=O)OCC2=CC=CC=C2)C=CC1N1C=NC(=C1)C | C20H20N4O4
